US06331548B1
Synthesis of (S)-N-(3,5-dichloropyridin-4-yl)-1-(1-methoxycarbonylpyrrolidin-3-yl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide
Then, to a 4 ml anhydrous methylene chloride solution of (S)-N-(3,5-dichloropyridin-4-yl)-1-(3-pyrrolidyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide hydrochloride, 43.6 μl (0.31 mmol) of triethylamine and 9.7 μl (0.125 mmol) of methyl chlorocarbonate were added at room temperature and stirred for 40 minutes. The reaction solution was concentrated under vacuum and the residue was purified by a silica gel chromatography (hexane/ethyl acetate=1/3) to obtain 45 mg (88%) of the above-identified compound as a colorless oily substance.

reactant | (S)-N-(3,5-dichloropyridin-4-yl)-1-(3-pyrrolidyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide hydrochloride | Cl.ClC=1C=NC=C(C1NC(=O)C1=CN(C2=NC=CC=C2C1=O)[C@@H]1CNCC1)Cl
reactant | triethylamine | 0.31 mmol, 43.6 μl | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 0.125 mmol, 9.7 μl | C(OC)(=O)Cl | C2H3ClO2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(3,5-dichloropyridin-4-yl)-1-(1-methoxycarbonylpyrrolidin-3-yl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | 45 mg, 88% | ClC=1C=NC=C(C1NC(=O)C1=CN(C2=NC=CC=C2C1=O)[C@@H]1CN(CC1)C(=O)OC)Cl | C20H17Cl2N5O4
